US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 2,4-dichloro-5-nitropyrimidine with 2,2-difluoro-5-amino-1,3-benzodioxole gave N2,N4-bis-(2,2-difluoro-1,3-benzodioxol-5-yl)-5-nitro-2,4-pyrimidinediamine. LCMS: ret. time: 38.15 min.; purity: 96%; MS (m/e): 467 (M+); 1H NMR (CDCl3): δ 10.76 (1H, s), 10.49 (1H, s), 9.20 (1H, s), 7.74 (2H, s), 7.56 (1H, d, J=11.4 Hz), 7.33 (2H, m), 7.20 (1H, m).

reactant | 2,4-dichloro-5-nitropyrimidine | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | 2,2-difluoro-5-amino-1,3-benzodioxole | FC1(OC2=C(O1)C=CC(=C2)N)F | C7H5F2NO2
product | N2,N4-bis-(2,2-difluoro-1,3-benzodioxol-5-yl)-5-nitro-2,4-pyrimidinediamine | FC1(OC2=C(O1)C=CC(=C2)NC2=NC=C(C(=N2)NC2=CC1=C(OC(O1)(F)F)C=C2)[N+](=O)[O-])F | C18H9F4N5O6
